US09326513B2
Preparation of 5-bromo-6-(trans-4-isopropylcyclohexoxy)-2-methyl-pyridin-3-amine
To a stirred solution of 3-bromo-2-(trans-4-isopropylcyclohexoxy)-6-methyl-5-nitro-pyridine (0.917 g, 2.00 mmol) in EtOH/H2O (24 mL/6 mL, 4/1 v/v), ammonium chloride (0.109 g, 2.00 mmol, 1.0 eq) and iron powder (0.452 g, 8.00 mmol, 4 eq) were added at room temperature under inert atmosphere (Ar). The reaction mixture was stirred under heating to reflux for 3 h. At this point in time, TLC indicated that the starting material was consumed. Therefore, the reaction mixture was allowed to reach room temperature and was filtered through a pad of celite. The filtrate was concentrated under reduced pressure and the residue partitioned between a 2 molar aqueous NaOH solution (20 mL) and ethyl acetate (30 mL). The phases were separated and the aqueous phase extracted with ethyl acetate (2×20 mL). The organic layer was washed with brine (40 mL), dried over anhydrous Na2SO4 and filtered. The solvent was removed in vacuo to afford the title compound (0.658 g, 100%) as an oil.

reactant | 3-bromo-2-(trans-4-isopropylcyclohexoxy)-6-methyl-5-nitro-pyridine | 2.00 mmol, 0.917 g | BrC=1C(=NC(=C(C1)[N+](=O)[O-])C)O[C@@H]1CC[C@H](CC1)C(C)C | C15H21BrN2O3
reactant | ammonium chloride | 2.00 mmol, 0.109 g, 1.0 eq | [Cl-].[NH4+]
solvent | EtOH H2O | 24 mL | CCO.O
catalyst | iron | 8.00 mmol, 0.452 g, 4 eq | [Fe] | Fe
product | 5-bromo-6-(trans-4-isopropylcyclohexoxy)-2-methyl-pyridin-3-amine | 0.658 g, 100% | BrC=1C=C(C(=NC1O[C@@H]1CC[C@H](CC1)C(C)C)C)N | C15H23BrN2O
